US08980913B2
Step 3: (S)-4-((3-(((tert-Butoxycarbonyl)amino)(phenyl)methyl)phenoxy)methyl)-2-methoxybenzoic acid
To a solution of (S)-methyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)-methyl)phenoxy)methyl)-2-methoxybenzoate (0.90 g, 1.89 mmol) in a mixture of THF (9 mL) and methanol (9 mL) was added aqueous 2 M sodium hydroxide (9 mL). The reaction mixture was stirred at RT for 18 hours. 10% aqueous citric acid was added to the reaction mixture to pH 3. The mixture was extracted with ethyl acetate (×2). The combined organic phases were washed with brine, dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure to afford the title compound (0.82 g, 87%).

reactant | (S)-methyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)-methyl)phenoxy)methyl)-2-methoxybenzoate | 1.89 mmol, 0.90 g | C(C)(C)(C)OC(=O)N[C@H](C=1C=C(OCC2=CC(=C(C(=O)OC)C=C2)OC)C=CC1)C1=CC=CC=C1 | C28H31NO6
reactant | sodium hydroxide | 2 M, 9 mL | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | methanol | 9 mL | CO | CH4O
product | (S)-4-((3-(((tert-Butoxycarbonyl)amino)(phenyl)methyl)phenoxy)methyl)-2-methoxybenzoic acid | 0.82 g, 87% | C(C)(C)(C)OC(=O)N[C@H](C=1C=C(OCC2=CC(=C(C(=O)O)C=C2)OC)C=CC1)C1=CC=CC=C1 | C27H29NO6
